US06806265B2
c) Ethyl 5-{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]phenyl}-2-methyl-3-furanecarboxylate
DIAD (60 μL, 0.31 mmol) was added dropwise to a solution of 11-ethyl-5,11-dihydro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (75.8 mg, 0.25 mmol), ethyl 5-(4-hydroxyphenyl)-2-methyl-3-furanecarboxylate (75 mg, 0.30 mmol) and PPh3 (80.0 mg, 0.30 mmol) in THF (3 mL) at 25° C. The reaction mixture was stirred at 25° C. for 48 h. The mixture was concentrated under reduced pressure. The residue was purified by flash chromatography (Hexane:EtOAc, 3:2) to give the title compound (64 mg, 48% yield) as yellow oil.

reactant | DIAD | 0.31 mmol, 60 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 11-ethyl-5,11-dihydro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 0.25 mmol, 75.8 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCO)=O)C)C=CC=N2 | C16H18N4O2
reactant | ethyl 5-(4-hydroxyphenyl)-2-methyl-3-furanecarboxylate | 0.30 mmol, 75 mg | OC1=CC=C(C=C1)C1=CC(=C(O1)C)C(=O)OCC | C14H14O4
reactant | PPh3 | 0.30 mmol, 80.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | Ethyl 5-{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]phenyl}-2-methyl-3-furanecarboxylate | 64 mg, 48% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=CC=C(C=C3)C3=CC(=C(O3)C)C(=O)OCC)=O)C)C=CC=N2 | C30H30N4O5
